US09029531B2
Step A: ethyl 2-(4-(methylsulfonamido)phenyl)acetate
The solution of ethyl 2-(4-aminophenyl)acetate (500 mg, 2.79 mmol) and triethylamine (0.58 mL, 4.18 mmol) in dichloromethane (30 mL) was added methanesulfonyl chloride (0.24 mL, 3.07 mmol) dropwise at room temperature and stirred overnight. The mixture was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a standard method to give desired compound. LC-MS: m/z (M+H)=258.3

reactant | ethyl 2-(4-aminophenyl)acetate | 2.79 mmol, 500 mg | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | triethylamine | 4.18 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.07 mmol, 0.24 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | ethyl 2-(4-(methylsulfonamido)phenyl)acetate | CS(=O)(=O)NC1=CC=C(C=C1)CC(=O)OCC | C11H15NO4S
